US09029545B2
Ethyl 3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate (Description 73) (870 mg, 1.824 mmol) in CHCl3 (30 mL) at 60° C. was added bromine (0.10 mL, 2.01 mmol), prediluted in CHCl3 (5.25 mL), dropwise. The resulting mixture was stirred at 60° C. for ca. 4 h and was then cooled to RT. The resulting precipitate was filtered and the solid rinsed with DCM and dried, to give the title compound (920 mg). LCMS (A) m/z: 556/558 [M+1]+, Rt 1.25 min (acidic).

reactant | ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 1.824 mmol, 870 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2)C=2C=NNC2 | C20H17ClN4O4S2
reactant | bromine | 2.01 mmol, 0.10 mL | BrBr | Br2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5.25 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 920 mg | BrC1=C(SC2=NC(=C(C(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C)C=2C=NNC2 | C20H16BrClN4O4S2
